US20010027196A1
2-Amino-4-benzo[1,3]dioxol-5-yl-6-cyclohexyloxy-pyrimidine-5-carbonitrile
From 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile, cyclohexanol and DBU in DME. ES-MS m/e (%): 339 (M+H+, 45), 257 (100).

reactant | 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)S(=O)(=O)C | C13H10N4O4S
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzo[1,3]dioxol-5-yl-6-cyclohexyloxy-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)OC1CCCCC1 | C18H18N4O3
